US07544812B2
A solution of crude 5-(2-hydroxy-ethyl)-3-(4-methyl-benzyl)-imidazolidine-2,4-dione (24.68 g, 99.4 mmol) and imidazole (10.15 g, 0.149 mol) in DMF (250 mL) was treated dropwise with tert-butyldiphenylsilyl chloride (27.37 g, 99.6 mmol) and then stirred at room temperature under N2 for 7 h. The reaction was worked up extractively with aqueous 1 N HCl (300 mL), diethyl ether and brine and the organic layer was dried (MgSO4) and the solvent removed in vacuo to give crude product which was purified by flash chromatography using a gradient of 5:1 to 2:1 hexanes:EtOAc to afford 23.82 g (49%) of 5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-3-(4-methyl-benzyl)-imidazolidine-2,4-dione. MS (ES+) Calc'd for C29H35N2O3Si (M+1) 487. Found m/z 487 (100%). 1H NMR.

reactant | 5-(2-hydroxy-ethyl)-3-(4-methyl-benzyl)-imidazolidine-2,4-dione | 99.4 mmol, 24.68 g | OCCC1C(N(C(N1)=O)CC1=CC=C(C=C1)C)=O | C13H16N2O3
reactant | imidazole | 0.149 mol, 10.15 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 99.6 mmol, 27.37 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | HCl | 1 N, 300 mL | Cl | ClH
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-3-(4-methyl-benzyl)-imidazolidine-2,4-dione | 23.82 g, 49% | C(C)(C)(C)[Si](OCCC1C(N(C(N1)=O)CC1=CC=C(C=C1)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N2O3Si
